US05166214
Preparation of N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-N-heptyl-N'-methylurea
To a solution of N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-1-heptanamine (0.30 g, 0.0007 mol) in hexane (15 mL) was added methylisocyanate (0.06 mL, 0.057 g, 0.001 mol) and the reaction mixture was stirred at ambient temperature for 18 hours. The reaction mixture was concentrated under vacuum and the residue was chromatographed with 1:1 hexane-ethyl acetate. The resulting oil was triturated with hexane to give the title compound (0.23 g, 0.00047 mol) as a white solid, mp 93°-96°. 1H NMR (CDCl3) δ7.6-7.2(m,11H), 4.35-2.7(m,9H), 1.9-1.2(m,16H), 0.9(t,3H,J=8Hz).

reactant | N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-1-heptanamine | 0.0007 mol, 0.30 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCNCCCCCCC | C27H37N3S
reactant | methylisocyanate | 0.001 mol, 0.06 mL, 0.057 g | CN=C=O | C2H3NO
solvent | hexane | 15 mL | CCCCCC | C6H14
product | N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-N-heptyl-N'-methylurea | 0.00047 mol, 0.23 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCN(C(=O)NC)CCCCCCC | C29H40N4OS
